US07635715B2
Step C: Preparation of N-((6′-Chloro-4′-hydroxy-2′-oxo-2′H-spiro[cyclopentane-1,1′-naphthalen]-3′-yl)carbonyl)glycine
A mixture of 1,1-dimethylethyl N-((6′-chloro-4′-hydroxy-2′-oxo-2′H-spiro[cyclopentane-1,1′-naphthalen]-3′-yl)carbonyl)glycinate (0.2 g, 0.5 mmol) in 2 mL TFA was stirred at room temperature for 30 minutes, M+1=350. The mixture was concentrated and triturated in ether/hexane (10:1). The solid was filtered, washed with 10 mL ether/hexane (10:1), and dried under high vacuum to give 135 mg of the salt as an off-white solid. MS (m/z)=350 (M+H)+. Calculated for C17H16ClNO5 349.07.

reactant | 1,1-dimethylethyl N-((6′-chloro-4′-hydroxy-2′-oxo-2′H-spiro[cyclopentane-1,1′-naphthalen]-3′-yl)carbonyl)glycinate | 0.5 mmol, 0.2 g | ClC=1C=C2C(=C(C(C3(C2=CC1)CCCC3)=O)C(=O)NCC(=O)OC(C)(C)C)O | C21H24ClNO5
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-((6′-Chloro-4′-hydroxy-2′-oxo-2′H-spiro[cyclopentane-1,1′-naphthalen]-3′-yl)carbonyl)glycine | 135 mg | ClC=1C=C2C(=C(C(C3(C2=CC1)CCCC3)=O)C(=O)NCC(=O)O)O | C17H16ClNO5
